US09334286B2
Preparation 109: 2-Ethoxy-4-(4-methyl-4H-1,2,4-triazol-3-yl)aniline
The title compound was prepared according to the method described for Preparation 107 using 3-(3-Ethoxy-4-nitrophenyl)-4-methyl-4H-1,2,4-triazole (Preparation 116) in EtOAc and EtOH (1:8 v:v).

reactant | 3-(3-Ethoxy-4-nitrophenyl)-4-methyl-4H-1,2,4-triazole | C(C)OC=1C=C(C=CC1[N+](=O)[O-])C1=NN=CN1C | C11H12N4O3
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | CCO | C2H6O
product | 2-Ethoxy-4-(4-methyl-4H-1,2,4-triazol-3-yl)aniline | C(C)OC1=C(N)C=CC(=C1)C1=NN=CN1C | C11H14N4O
